US07323475B2
2-[(1-Chloro-4-hydroxy-6-isopropoxy-isoquinoline-3-carbonyl)-amino]-2-methyl-propionic acid
Prepared in analogy to Example A-1 a) and b) from 1-chloro-4-hydroxy-6-isopropoxy-isoquinoline-3-carboxylic acid (can be obtained according to U.S. Pat. No. 6,093,730, October 1998, Weidmann et al.) and 2-amino-2-methyl-propionic acid methyl ester hydrochloride; MS-(+)-ion: M+1=367.0 amu.

reactant | 1-chloro-4-hydroxy-6-isopropoxy-isoquinoline-3-carboxylic acid | ClC1=NC(=C(C2=CC(=CC=C12)OC(C)C)O)C(=O)O | C13H12ClNO4
reactant | 2-amino-2-methyl-propionic acid methyl ester hydrochloride | Cl.COC(C(C)(C)N)=O
product | 2-[(1-Chloro-4-hydroxy-6-isopropoxy-isoquinoline-3-carbonyl)-amino]-2-methyl-propionic acid | ClC1=NC(=C(C2=CC(=CC=C12)OC(C)C)O)C(=O)NC(C(=O)O)(C)C | C17H19ClN2O5
